US08809527B2
Method LIV: Ethyl Nα-(4′-Iodobenzyl)-glycinate, hydrochloride, compound DK
A suspension of ethyl glycinate hydrochloride (944 mg) in DMF (6.0 mL) was stirred for 5 min. p-Iodobenzyl bromide (2.00 g) was added. The heterogeneous system was warmed to 50° C. and stirred for 5 min, during which time, most solids dissolved. K2CO3 (2.80 g, granular) was added steadily over 5 min. After 2 h, the reaction was cooled to 23° C. Conc. aq. HCl (3.3 mL) was added, followed by H2O (7.0 mL). The heterogeneous mix was stirred for 15 min and filtered (the cake was washed with CH3CN (4×5 mL)). The net filtrate was concentrated until no CH3CN remained. The crude product solution was filtered through a 0.45 micron Teflon filter and loaded directly onto a Teledyne Isco ‘gold’ 100 gram column and flashed (Eluent: 0.05% w/v aq. HCl/CH3CN 95:5→0:100), giving DK (688 mg, 29% yield) as an HCl salt. 1H NMR (DMSO-d6, 300 MHz): δ (ppm) 9.78 (s, 2H), 7.84 (d, J=7.8 Hz, 2H), 7.36 (d, J=7.8 Hz, 2H), 4.23 (q, J=7.0 Hz, 2H), 4.15 (s, 2H), 3.95 (s, 2H), 1.25 (t, J=7.0 Hz, 3H). LCMS-ESI+: calc'd for C11H15INO2: 320.0 (M+H+). Found: 319.9 (M+H+).

reactant | ethyl glycinate hydrochloride | 944 mg | Cl.NCC(=O)OCC
reactant | p-Iodobenzyl bromide | 2.00 g | IC1=CC=C(CBr)C=C1 | C7H6BrI
reactant | K2CO3 | 2.80 g | C(=O)([O-])[O-].[K+].[K+]
reactant | HCl | 3.3 mL | Cl | ClH
solvent | DMF | 6.0 mL | CN(C)C=O | C3H7NO
solvent | H2O | 7.0 mL | O | H2O
product | Ethyl Nα-(4′-Iodobenzyl)-glycinate, hydrochloride | 29% yield | Cl.IC1=CC=C(CNCC(=O)OCC)C=C1 | InChI=1S/C11H14INO2.ClH/c1-2-15-11(14)8-13-7-9-3-5-10(12)6-4-9;/h3-6,13H,2,7-8H2,1H3;1H
